US08877782B2
[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-(6-oxa-1-aza-spiro[3.3]hept-1-yl)-methanone
As described for example 15, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (33 mg, 0.1 mmol) was converted, using 6-oxa-1-aza-spiro[3.3]heptane instead of 3-methoxypropylamine, to the title compound (15 mg, 35%) which was obtained as a colourless gum. MS: m/e=392.3 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.1 mmol, 33 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 6-oxa-1-aza-spiro[3.3]heptane | N1CCC12COC2 | C5H9NO
product | [6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-(6-oxa-1-aza-spiro[3.3]hept-1-yl)-methanone | 15 mg, 35% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)N1CCC12COC2 | C22H21N3O4
